US08106045B2
To a solution of (2S)-2-(4-(N-cyclohexyl-N-methylamino)phenyl)morpholine (4.47 g, 16.30 mmol) and triethylamine (3.1 ml, 22.2 mmol) in tetrahydrofuran (50 ml) was added 2-chloro-3-methyl-6-(4-pyridyl)-3H-pyrimidin-4-one (3.28 g, 14.82 mmol) portionwise. Upon disappearance of the chloropyrimidone, the reaction mixture was condensed under reduced pressure. The residue was partitioned between 1 N sodium hydroxide and dichloromethane. The organic layer was washed with water, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure to give a pale yellow solid, which was recrystallized from ethanol to afford 2-((2S)-2-(4-(N-cyclohexyl-N-methylamino)-phenyl)morpholin-4-yl)-3-methyl-6-(4-pyridyl)-pyrimidin-4-one (5.15 g, 75.7%) as white crystals.

reactant | (2S)-2-(4-(N-cyclohexyl-N-methylamino)phenyl)morpholine | 16.30 mmol, 4.47 g | C1(CCCCC1)N(C)C1=CC=C(C=C1)[C@H]1CNCCO1 | C17H26N2O
reactant | triethylamine | 22.2 mmol, 3.1 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-3-methyl-6-(4-pyridyl)-3H-pyrimidin-4-one | 14.82 mmol, 3.28 g | ClC1=NC(=CC(N1C)=O)C1=CC=NC=C1 | C10H8ClN3O
reactant | chloropyrimidone | ClC1=NC(NC=C1)=O | C4H3ClN2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-((2S)-2-(4-(N-cyclohexyl-N-methylamino)-phenyl)morpholin-4-yl)-3-methyl-6-(4-pyridyl)-pyrimidin-4-one | 5.15 g, 75.7% | C1(CCCCC1)N(C)C1=CC=C(C=C1)[C@H]1CN(CCO1)C1=NC(=CC(N1C)=O)C1=CC=NC=C1 | C27H33N5O2
